US04026896
162 Milligrams of 2-(3'-methoxycinnamoylamino)phenylpropionic acid were dissolved in an alcohol and an equivalent amount of sodium hydroxide was added to the solution. The mixture was warmed for 30 minutes and then concentrated under reduced pressure. The residue was taken up in a small amount of ethanol and ether was added to the ethanolic solution. The precipitated crystals were collected by filtration to obtain sodium 2-(3'-methoxycinnamoylamino)phenylpropionate.

reactant | 2-(3'-methoxycinnamoylamino)phenylpropionic acid | COC=1C=C(C=CC(=O)NC2=C(C=CC=C2)C(C(=O)O)C)C=CC1 | C19H19NO4
reactant | sodium hydroxide | [OH-].[Na+]
product | sodium 2-(3'-methoxycinnamoylamino)phenylpropionate | COC=1C=C(C=CC(=O)NC2=C(C=CC=C2)C(C(=O)[O-])C)C=CC1.[Na+] | InChI=1S/C19H19NO4.Na/c1-13(19(22)23)16-8-3-4-9-17(16)20-18(21)11-10-14-6-5-7-15(12-14)24-2;/h3-13H,1-2H3,(H,20,21)(H,22,23);/q;+1/p-1
